US06002008
4-Bromo-but-2-enoic acid [4-(3-bromo-phenylamino)-3-cyano-7-ethoxy-quinolin-6-yl]-amide
To a mixture of 1.34 g (3.5 mmol) of 4-[3-bromo-phenyl)amino]-7-ethoxy-6-amino-3-quinolinecarbonitrile and 3.66 ml (21 mmol) of Hunig's base in 80 ml of dry THF at 0° C., with stirring, was added a THF solution containing 3.85 g (21 mmol) of 4-bromo crotonyl chloride dropwise. The mixture was stirred for additional 30 minutes at 0° C. 50 ml of saturated sodium chloride solution was added to the reaction mixture, then it was extracted with ethyl acetate. The ethyl acetate solution was dried over sodium sulfate and then the drying agent was filtered off. This solution was used without further characterization.

reactant | 7-ethoxy-6-amino-3-quinolinecarbonitrile | C(C)OC1=C(C=C2C=C(C=NC2=C1)C#N)N | C12H11N3O
reactant | Hunig's base | 21 mmol, 3.66 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-bromo crotonyl chloride | 21 mmol, 3.85 g | BrC/C=C/C(=O)Cl | C4H4BrClO
reactant | sodium chloride | 50 ml | [Cl-].[Na+]
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | 4-Bromo-but-2-enoic acid [4-(3-bromo-phenylamino)-3-cyano-7-ethoxy-quinolin-6-yl]-amide | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)NC(C=CCBr)=O)OCC)C#N | C22H18Br2N4O2
